US04599333
A solution of 980 mg of 3-(2-amino-2-methylpropylthio)-6-chloropyridazine and 960 mg of 1-[2-(2-methoxyethyl)phenoxy]-2,3-epoxypropane in 60 ml of methanol was treated in the same way as in Example 1, (b) to give 534 mg of 1-[2-(2-methoxyethyl)phenoxy]-3-[1,1-dimethyl-2-(3-chloro-6-pyridazinylthio)ethylamino]-2-propanol.

reactant | 3-(2-amino-2-methylpropylthio)-6-chloropyridazine | 980 mg | NC(CSC=1N=NC(=CC1)Cl)(C)C | C8H12ClN3S
reactant | 1-[2-(2-methoxyethyl)phenoxy]-2,3-epoxypropane | 960 mg | COCCC1=C(OCC2CO2)C=CC=C1 | C12H16O3
solvent | methanol | 60 ml | CO | CH4O
product | 1-[2-(2-methoxyethyl)phenoxy]-3-[1,1-dimethyl-2-(3-chloro-6-pyridazinylthio)ethylamino]-2-propanol | 534 mg | COCCC1=C(OCC(CNC(CSC2=CC=C(N=N2)Cl)(C)C)O)C=CC=C1 | C20H28ClN3O3S
